US07135475B2
A solution of 2-(4-acetylamino-phenyl)-N-(6-amino-1-butyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-acetamide (330 mg, 0.88 mmol) in methanol (7.0 mL) was treated with a 10% aqueous sodium hydroxide solution (3.54 mL). The resulting solution was stirred at 25° C. for 5 min and then was heated to 50° C. for 3 h. At this time, another portion of a 10% aqueous sodium hydroxide solution (3.54 mL) was added. The reaction was heated to 50° C. for an additional 4 h. At this time, the reaction was concentrated in vacuo. The residue was cooled to 0° C. and then treated with a 1N aqueous hydrochloric acid solution. The resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford N-[4-(3-butyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl)-phenyl]-acetamide (196 mg, 62%) as an orange-yellow solid: 1H NMR (DMSO-d6, 300 MHz) δ 13.32 (broad s, 1H), 10.96 (broad s, 1H), 9.94 (broad s, 1H), 7.48 (d, J=8.42 Hz, 2H), 7.17 (d, J=8.42 Hz, 1H), 3.95 (s, 2H), 3.86 (m, 2H), 1.99 (s, 3H), 1.59 (m, 2H), 1.27 (m, 2H), 0.87 (t, J=7.32 Hz, 3H).

reactant | 2-(4-acetylamino-phenyl)-N-(6-amino-1-butyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-acetamide | 0.88 mmol, 330 mg | C(C)(=O)NC1=CC=C(C=C1)CC(=O)NC=1C(NC(N(C1N)CCCC)=O)=O | C18H23N5O4
reactant | sodium hydroxide | 3.54 mL | [OH-].[Na+]
reactant | sodium hydroxide | 3.54 mL | [OH-].[Na+]
solvent | methanol | 7.0 mL | CO | CH4O
product | N-[4-(3-butyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl)-phenyl]-acetamide | 196 mg, 62% | C(CCC)N1C(NC(C=2NC(=NC12)CC1=CC=C(C=C1)NC(C)=O)=O)=O | C18H21N5O3
